US05330990
2-(2-Aminophenyl)-5-methyl-1,3,4-oxadiazol
A mixture of isatoic anhydride (16.3 g, 0.1 mol), p-toluenesulfonic acid (0.2 g, 1.1 mmol), glacial acetic acid (10 ml), acethydrazide (7.4 g, 0.1 mol) and dry toluene (90 ml) was stirred at 120° C. for 4 h, cooledto room temperature and poured into ice water. Toluene (500 ml) was added, and the phases were separated. The aqueous phase was extracted with CH2Cl2 (2×100 ml).

reactant | isatoic anhydride | 0.1 mol, 16.3 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | p-toluenesulfonic acid | 1.1 mmol, 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | acethydrazide | 0.1 mol, 7.4 g | C(C)(=O)NN | C2H6N2O
solvent | Toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Aminophenyl)-5-methyl-1,3,4-oxadiazol | NC1=C(C=CC=C1)C=1OC(=NN1)C | C9H9N3O
